US08048909B2
Methyl 4-isopropyl-1H-pyrrole-3-carboxylate
Using p-toluenesulfonylmethyl isocyanide (7.6 g), methyl (2E)-4-methylpent-2-enoate (5.0 g) and potassium tert-butoxide (5.25 g), a procedure as in Reference Example 39 was performed to give the title compound as a pale-yellow oil (yield 3.5 g, 54%).

reactant | p-toluenesulfonylmethyl isocyanide | 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | methyl (2E)-4-methylpent-2-enoate | 5.0 g | CC(/C=C/C(=O)OC)C | C7H12O2
reactant | potassium tert-butoxide | 5.25 g | CC(C)([O-])C.[K+]
product | Methyl 4-isopropyl-1H-pyrrole-3-carboxylate | yield 3.5 g, 54% | C(C)(C)C=1C(=CNC1)C(=O)OC | C9H13NO2
